US04886817
To a solution of 2.51 g of (E)-N-cinnamyl-N'-(3-pyridyl) urea dissolved in 30 ml of dimethylformamide, 990 mg of sodium hydride (60% oily dispersion) was added under ice-cooling and the mixture was stirred for 30 minutes. To the mixture was added 2.8 g of 1-chloro-2-p-toluenesulfonyloxyethane and the mixture was stirred under ice-cooling for 6 hours. After distilling dimethylformamide off under reduced pressure, the residue was diluted with water and extracted with chloroform. The chloroform layer was washed with water, dried and then the solvent was distilled off. The residue was purified by silica gel column chromatography (solvent: chloroform-methanol=30:1) and recrystalliezed from ethanol to give 1.65 g of (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone.

reactant | (E)-N-cinnamyl-N'-(3-pyridyl) urea | 2.51 g | C(\C=C\C1=CC=CC=C1)NC(=O)NC=1C=NC=CC1 | C15H15N3O
reactant | sodium hydride | 990 mg | [H-].[Na+]
reactant | 1-chloro-2-p-toluenesulfonyloxyethane | 2.8 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone | 1.65 g, Yield: 60% | C(\C=C\C1=CC=CC=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C17H17N3O
